US06437124B1
(b) 3-[4-[1,3-Bis(cyclohexylmethyl)-1,2,3,6-tetrahydro-2,6-dioxo-9H-purin-8-yl]phenyl}propiolic Acid
2.8 g (4.1 mmol) 3-[4-[1,3-bis(cyclohexylmethyl)-1,2,3,6-tetrahydro-2,6-dioxo-9H-purin-8-yl]phenyl}-2,3-dibromo-propionic acid ethyl ester (part a of this example) was added to 56 mL of 1M potassium t-butoxide in t-butanol (Aldrich) at room temperature. The mixture was stirred at room temperature for 2.5 hours, then 0.10 mL water was added. The solution was stirred for an additional hour then 1 g charcoal was added in 250 mL water. The mixture was stirred for 30 minutes then filtered. The filtrate was acidified with conc. hydrochloric acid (pH=1), then the resulting suspension was stirred for 15 minutes, filtered then washed with 3×50 mL water. The solid was dried under reduced pressure to give 1.63 g (81%) of title compound; 1H-NMR (DMSO-d6)δ: 8.15 (d, J=8.0 Hz, phenyl CH, 2H), 7.73 (d, J=8.0 Hz, phenyl CH, 2H), 3.87 (d, J=6.6 Hz, CH2N, 2H), 3.74 (d, J=6.8 Hz, CH2N, 2H), 1.88 (br s, c-hexyl CH, 1H), 1.4-1.8 (m, c-hexyl CH, CH2, 11H), 0.8-1.2 (m, c-hexyl CH2, 10 H); MS (ES−): 487 (M-1), 443 (M-1-CO2).

reactant | 3-[4-[1,3-bis(cyclohexylmethyl)-1,2,3,6-tetrahydro-2,6-dioxo-9H-purin-8-yl]phenyl}-2,3-dibromo-propionic acid ethyl ester | 4.1 mmol, 2.8 g | C(C)OC(C(C(Br)C1=CC=C(C=C1)C=1NC=2N(C(N(C(C2N1)=O)CC1CCCCC1)=O)CC1CCCCC1)Br)=O | C30H38Br2N4O4
reactant | potassium t-butoxide | 1M, 56 mL | CC(C)([O-])C.[K+]
reactant | charcoal | 1 g | C | CH4
solvent | t-butanol | C(C)(C)(C)O | C4H10O
solvent | water | 250 mL | O | H2O
solvent | water | 0.10 mL | O | H2O
product | 3-[4-[1,3-Bis(cyclohexylmethyl)-1,2,3,6-tetrahydro-2,6-dioxo-9H-purin-8-yl]phenyl}propiolic Acid | 1.63 g, 81% | C1(CCCCC1)CN1C(N(C=2NC(=NC2C1=O)C1=CC=C(C=C1)C#CC(=O)O)CC1CCCCC1)=O | C28H32N4O4
